US08404676B2
Step 1: 5-methyl-6-(2-methylpiperidin-1-yl)nicotinonitrile
A mixture of 5-cyano-2-fluoro-3-methylpyridine (Molekula M52391889; 1.5 g; 11 mmol; 1 eq.) and 2-methylpiperidine (5.2 mL; 44.1 mmol; 4 eq.) was stirred at 90° C. for 16 hours.

reactant | 5-cyano-2-fluoro-3-methylpyridine | 11 mmol, 1.5 g, 1 eq. | C(#N)C=1C=C(C(=NC1)F)C | C7H5FN2
reactant | 2-methylpiperidine | 44.1 mmol, 5.2 mL, 4 eq. | CC1NCCCC1 | C6H13N
product | 5-methyl-6-(2-methylpiperidin-1-yl)nicotinonitrile | CC=1C(=NC=C(C#N)C1)N1C(CCCC1)C | C13H17N3
